US07888364B2
1.3 mL of methanesulfonyl chloride was slowly added to a solution of 2 g of 1-Boc-piperazine and 1.3 mL of pyridine in 6 mL of dichloromethane at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 2 h while being monitored by TLC. Upon completion, the mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatograph (20-100% ethyl acetate/hexane) to afford tert-butyl-4-(methylsulfonyl)piperazine-1-carboxylate. 930 mg of tert-butyl-4-(methylsulfonyl)piperazine-1-carboxylate was treated with 4N HCl in dioxane for 2 h. The reaction mixture was evaporated to give the HCl salt of 1-(methylsulfonyl)piperazine. Procedure F was performed using 50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide, 69 mg of 1-(methylsulfonyl)piperazine and DEPA (1 eq) in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-6-(4-(methylsulfonyl)piperazin-1-yl)nicotinamide. MS (Q1) 486.3 (M)+.

reactant | methanesulfonyl chloride | 1.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-Boc-piperazine | 2 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | pyridine | 1.3 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | tert-butyl-4-(methylsulfonyl)piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C | C10H20N2O4S
